US06225310B1
a) N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-methylhexyl)thiourea
The title compound was prepared from 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride and 1-methylhexyl isothiocyanate by a procedure analogous to the procedure described in example 3-a; a syrup was obtained (yield 43%), 1H-NMR (DMSO-d6): δ0.85 (t, 3H, CH3), 1.10 (d, 3H, CH3), 1.25 (m, 6H), 1.45 (m, 2H), 4.25 (m, 1H, CH), 6.50 (br, 2H, NH2), 6.65 (s, 1H, H-4), 7.93 (br, 1H, NH), 11.3 (br s, 1H, NH).

reactant | 3-amino-5-chlorothiophene-2-sulfonamide hydrochloride | Cl.NC1=C(SC(=C1)Cl)S(=O)(=O)N
reactant | 1-methylhexyl isothiocyanate | CC(CCCCC)N=C=S | C8H15NS
product | N-(3-Amino-5-chloro-2-thienylsulfonyl)-N′-(1-methylhexyl)thiourea | yield 43% | NC1=C(SC(=C1)Cl)S(=O)(=O)NC(=S)NC(CCCCC)C | C12H20ClN3O2S3
